US07307076B2
a) 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylimino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
10.1 g (26 mmol) 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one and 4 g (22 mmol) 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine are stirred in 100 ml of ethanol for 2 hours at 60 to 70° C. After some of the solvent has been distilled off a solid is precipitated out during cooling, and this is suction filtered and washed with ethanol and diethyl ether.

reactant | 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 26 mmol, 10.1 g | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(C(O2)(C)C)=O)C(C(O)OCC)=O | C21H23NO6
reactant | 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine | 22 mmol, 4 g | COC1=CC=C(C=C1)CC(C)(C)N | C11H17NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-benzyloxy-8-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylimino]-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(C(O2)(C)C)=O)C(C=NC(CC2=CC=C(C=C2)OC)(C)C)O | C30H34N2O5
